US07166595B2
b) [1-(3-Benzyl-5-cyano-6-methyl-4-oxo-3,4-dihydro-pyrimidin-2-yl)-2-methyl-propyl]-carbamic acid-t-butyl ester
To a stirred solution of [(R)-1-(N-Benzyl-carbamimidoyl)-2-methyl-propyl]-carbamic acid t-butyl ester (14.16 g, 46 mMol) in EtOH (50 mL) was added Ethyl 2-ethoxyethylidene-cyanoacetate (8.4 g, 46 mMol). The reaction was refluxed for 18 h, cooled to RT and concentrated under vacuum. Purification by flash chromatography on silica gel (5% EtOAc, CH2Cl2) followed by crystallization from EtOAc, hexane and Et2O, pet. ether gave the title compound (8.03 g, 44%) as a white solid: MS (ES) m/e 397.2 (M+H)+.

reactant | [(R)-1-(N-Benzyl-carbamimidoyl)-2-methyl-propyl]-carbamic acid t-butyl ester | 46 mMol, 14.16 g | C(C)(C)(C)OC(N[C@H](C(C)C)C(NCC1=CC=CC=C1)=N)=O | C17H27N3O2
reactant | Ethyl 2-ethoxyethylidene-cyanoacetate | 46 mMol, 8.4 g | C(C)OCC=C(C(=O)OCC)C#N | C9H13NO3
solvent | EtOH | 50 mL | CCO | C2H6O
product | [1-(3-Benzyl-5-cyano-6-methyl-4-oxo-3,4-dihydro-pyrimidin-2-yl)-2-methyl-propyl]-carbamic acid-t-butyl ester | 8.03 g, 44% | C(C)(C)(C)OC(NC(C(C)C)C1=NC(=C(C(N1CC1=CC=CC=C1)=O)C#N)C)=O | C22H28N4O3
